US09164384B2
Synthesis of phenyl 4-(2,2,2-trifluoroethoxy)phenyl sulfoxide (PAG Intermediate 10)
In 120 g of acetic acid was dissolved 17.1 g of phenyl 4-(2,2,2-trifluoroethoxy)phenyl sulfide obtained in Synthesis Example 1-13. While the solution was maintained at an internal temperature of 30° C., 5.8 g of 35 wt % aqueous hydrogen peroxide was added dropwise. The reaction solution was aged at room temperature for 18 hours, after which under ice cooling, a mixture of 0.5 g sodium thiosulfate pentahydrate and 15 g water was added dropwise to quench the reaction. The solution was combined with 100 g of toluene, 50 g of ethyl acetate, and 50 g of water. The organic layer was separated, washed with water, and concentrated in vacuum. This was followed by crystallization from hexane, filtration, and drying. There was obtained 17.9 g of the target compound, phenyl 4-(2,2,2-trifluoroethoxy)phenyl sulfoxide as white crystals. Yield 99%.

reactant | phenyl 4-(2,2,2-trifluoroethoxy)phenyl sulfide | 17.1 g | FC(COC1=CC=C(C=C1)SC1=CC=CC=C1)(F)F | C14H11F3OS
reactant | hydrogen peroxide | OO | H2O2
reactant | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 120 g | C(C)(=O)O | C2H4O2
catalyst | sodium thiosulfate pentahydrate | 0.5 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 50 g | O | H2O
solvent | ethyl acetate | 50 g | C(C)(=O)OCC | C4H8O2
solvent | water | 15 g | O | H2O
product | phenyl 4-(2,2,2-trifluoroethoxy)phenyl sulfoxide | 17.9 g, Yield 99% | FC(COC1=CC=C(C=C1)S(=O)C1=CC=CC=C1)(F)F | C14H11F3O2S
